Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back and hip pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with PMHx of chronic back, hip and knee pain who 
presents with worsening back and hip pain. Back and hip pain 
initially started in ___ after an injury in right back and 
radiating down right buttock and into right leg. The patient 
ambulates with cane and has been seen by pain clinic for 
injections in the past. This right leg pain acutely worsened on 
___ night (___), which she described as spasms shooting 
down right leg. No bowel or bladder incontinence, no saddle 
anesthesia, no headaches, photophobia. No inciting incident 
noted by patient--no lifting, slips, trips or falls. Took on of 
her mother's codeine and ___ that somewhat relieved the 
spasms. Gabapentin was discontinued at PCP office on ___ as 
patient felt that it made her feel shaky. She states that she is 
set up to see neurology on ___.
Last seen in ___ clinic in ___, recommended aqua therapy 
but no further invention at that time; patient was seeking a 
second option with Dr. ___.
Right knee was initially injured in ___ and then again in ___. Seen by Dr. ___ in ___, received femoral nerve 
block which helped with the pain and per ED is scheduled to 
return to him in 2 wks.
In the ED, initial vitals were: 97.8 ___ 84 16 99RA
Exam notable for difficulty standing, sitting, cannot weight 
bear on right leg; can take two steps but ___ pain; pain to 
palpation over right flank, right bursa; ROM right hip limited 
by pain
Labs notable for normal CHEM10, Hgb 10.6, UA unremarkable
Imaging notable for: none done
Patient was given diazepam, oxycodone-acetaminophen x2, 
ketorolac, morphine
Decision was made to admit for pain control. It was noted in the 
ED that narcotics did not control the pain and patient was 
sedated.
Vitals notable for
On the floor, patient states that she got discharged from ___ 1.5 
months ago but has been doing home exercises and stretches. She 
has been doing that more and more at home in an effort to get 
ready to go back to work. She thinks that maybe this could be a 
trigger for her pain, but is unsure. No trauma or injury that 
she can recall. She states that she is currently have back and 
hip pain that is similar in location to her chronic pain but is 
much "deeper" than usual. She feels numbness and tingling down 
her right leg (has this at baseline, but more severe now). No 
bowel/bladder incontinence/retention. Able to walk, but 
difficult to place significant weight. Has been using cane but 
has been relying on it more and more in the last few days. She 
doesn't think that the medications in the ED helped. She states 
that her pain is currently ___.
 
Past Medical History:
Anemia
Asthma
Chronic pain disorder
Bilateral lumbar radiculopathy at L5
mood disorder/PTSD
Hx of Trochanteric bursitis

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION EXAM:
==============
VS: 97.7 133/88 63 20 100 RA
General: Alert, oriented, moderate distress secondary to pain
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Back: point spinal tenderness over L3-L4 region
Ext: Warm, well perfused, no cyanosis or edema. reproduction of 
back pain with straight leg test. Pain with palpation of R 
bursa. Reproduction of hip and back pain with passive flexion, 
extension, internal and external rotation of hips bilaterally.
Skin: Without rashes or lesions
Neuro: A&Ox3. Grossly intact. ___ strength in LEs, otherwise ___ 
throughout. normal sensation in LEs.

DISCHARGE EXAM:
==============
VS: 98.1 139/89 69 18 100 RA
General: Alert, oriented, moderate distress secondary to pain
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Back: point spinal tenderness over L3-L4 region
Ext: Warm, well perfused, no cyanosis or edema. reproduction of 
back pain with straight leg test. Pain with palpation of R 
bursa. Reproduction of hip and back pain with passive flexion, 
extension, internal and external rotation of hips bilaterally.
Skin: Without rashes or lesions
Neuro: A&Ox3. Grossly intact. ___ strength in LEs, otherwise ___ 
throughout. normal sensation in LEs.

 
Pertinent Results:
ADMISSION LABS
==============

___ 12:00PM BLOOD WBC-6.8 RBC-3.77* Hgb-10.6* Hct-34.2 
MCV-91 MCH-28.1 MCHC-31.0* RDW-15.2 RDWSD-50.7* Plt ___
___ 12:00PM BLOOD Neuts-54.5 ___ Monos-9.2 Eos-1.3 
Baso-0.4 Im ___ AbsNeut-3.69 AbsLymp-2.30 AbsMono-0.62 
AbsEos-0.09 AbsBaso-0.03
___ 12:00PM BLOOD Plt ___
___ 12:00PM BLOOD Glucose-86 UreaN-8 Creat-0.8 Na-138 K-4.1 
Cl-104 HCO3-25 AnGap-13

DISCHARGE LABS
==============

___ 06:15AM BLOOD WBC-6.3 RBC-3.66* Hgb-10.5* Hct-33.0* 
MCV-90 MCH-28.7 MCHC-31.8* RDW-14.8 RDWSD-49.3* Plt ___
___ 06:15AM BLOOD Plt ___
___ 06:15AM BLOOD Glucose-99 UreaN-9 Creat-0.8 Na-140 K-3.7 
Cl-103 HCO3-25 AnGap-16
___ 06:15AM BLOOD Calcium-8.6 Phos-3.2 Mg-1.8
 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman with a PMH of chronic back and hip 
pain, anemia, and asthma, who presented with subacute worsening 
of her chronic pain. She reported that she had recently been 
increasing the stretching that she had been doing at home under 
the direction of her physical therapist, which caused her pain 
to worsen over the weekend. She had no neurologic red flag 
symptoms, including no bowel or bladder incontinence or saddle 
anesthesia. In the ED, she received ketorolac, IV morphine, and 
diazepam. MRI from ___ demonstrated degenerative changes, 
worst at L4/L5 and L5/S1. IV morphine was discontinued. A lumbar 
plain radiograph was performed that demonstrated no evidence of 
compression fracture. She was evaluated by physical therapy, who 
recommended outpatient follow-up with aquatic ___. As her pain 
had moderately worsened over a subacute period, with no red flag 
symptoms, she was discharged home with a short course of 
oxycodone and lidocaine patches, with plans to follow up with 
outpatient ___, PCP, ___, and chronic pain specialist.

TRANSITIONAL ISSUES
===================
# Medication changes. Provided with short course of oxycodone 
and lidocaine patches, given moderate worsening of pain in the 
setting of increased activity. Provided docusate while on 
oxycodone. 
# Outpatient ___. Provided with prescription for outpatient 
aquatic physical therapy. 
# CODE: FULL
# CONTACT: mother: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate 
2. Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB, wheeze 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 (one) capsule(s) by mouth twice a 
day Disp #*60 Capsule Refills:*0 
2.  Lidocaine 5% Patch 1 PTCH TD QPM 
RX *lidocaine 5 % Apply to affect area daily Disp #*30 Patch 
Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 10 mg ___ tablet(s) by mouth twice a day Disp 
#*8 Tablet Refills:*0 
4.  Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB, wheeze  
5.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
6.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate  
7.Outpatient Physical Therapy
DIAGNOSES: M54.5 : Low back pain
DURATION: Ongoing
Please enroll in aquatic physical therapy. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
- chronic pain
- complex regional pain syndrome

SEOCNDARY DIAGNOSES
- anemia
- asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___. You were admitted because you were having pain. 
We took an X-ray of your back and found that you did not have 
any new fractures. You did not have any signs or symptoms of 
damage to your spinal cord. You were evaluated by our physical 
therapist, and it was recommended that you follow up with an 
___ physical therapist to continue helping with your pain. 
Please continue your follow-up with your PCP, pain management 
specialists, and neurologist going forward.

Please continue to take all medications as prescribed.

We wish you the very best!

Warmly,
Your ___ Team
 
Followup Instructions:
___